US04853410
6-Chloro-7-methoxy-2-methylchroman-4-one
A solution of 1.0 g (6.3 mmol) 4-chloro-3-methoxyphenol and 5.4 g (6.3 mmol) crotonic acid in 15 ml methane sulfonic acid was heated at 95° C. under nitrogen for 20 hours. The reaction was cooled to 23° C., poured onto 150 ml ice and water and extracted with 100 ml ethyl acetate. The ethyl acetate extract was successively washed with 100 ml water, 2×100 ml 1N sodium hydroxide and 100 ml brine, dried over magnesium sulfate and concentrated in vacuo to a purple crystalline solid. This was purified by flash chromatography on 150 cc silica gel using chloroform as eluant to give the product as a yellow crystalline solid, 1.1 g (78%); m.p. 96°-100° C.

reactant | 4-chloro-3-methoxyphenol | 6.3 mmol, 1.0 g | ClC1=C(C=C(C=C1)O)OC | C7H7ClO2
reactant | crotonic acid | 6.3 mmol, 5.4 g | C(\C=C\C)(=O)O | C4H6O2
reactant | water | O | H2O
solvent | methane sulfonic acid | 15 ml | CS(=O)(=O)O | CH4O3S
product | 6-Chloro-7-methoxy-2-methylchroman-4-one | ClC=1C=C2C(CC(OC2=CC1OC)C)=O | C11H11ClO3
